US04504491
(b) α-Ethynyl-3-(1-phenylvinyl)benzyl alcohol
To methyl magnesium iodide (1.4 g) in ether (25 cm3) was added a solution of α-ethynyl-3-benzoylbenzyl alcohol (0.5 g) in ether (10 cm3) with stirring during 10 minutes at 20° C., then the mixture refluxed for 5 minutes and poured onto a mixture of 40% sulphuric acid (40 cm3), sodium thiosulphate (3 g) and tetrahydrofuran (20 cm3). After 16 hours at 20° C., this mixture was extracted with ether (3×150 cm3), washed with sodium thiosulphate solution (2M), saturated sodium chloride, dried and finally evaporated to give the title product, yield 0.48 g (96%) nD20 1.5942.

reactant | methyl magnesium iodide | 1.4 g | C[Mg]I
reactant | α-ethynyl-3-benzoylbenzyl alcohol | 0.5 g | C(#C)C(C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)O | C16H12O2
reactant | sulphuric acid | 40 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | sodium thiosulphate | 3 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 25 cm3 | CCOCC | C4H10O
solvent | ether | 10 cm3 | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | α-Ethynyl-3-(1-phenylvinyl)benzyl alcohol | C(#C)C(C1=CC(=CC=C1)C(=C)C1=CC=CC=C1)O | C17H14O
